US05532236
8-(1H-Benzimidazol-1-yl)-7-nitro[1,2,4]triazolo[4,3-a]quinoxalin-1,4(2H,5H)-dione
The title compound was prepared from 8-fluoro-7-nitro[1,2,4]triazolo[4,3-a]quinoxaline-1,4(2H,5H)-dione and benzimidazole by a method analogous to the method described in example 11. M.p.>300° C. decomp.

reactant | 8-fluoro-7-nitro[1,2,4]triazolo[4,3-a]quinoxaline-1,4(2H,5H)-dione | FC1=C(C=C2NC(C=3N(C2=C1)C(NN3)=O)=O)[N+](=O)[O-] | C9H4FN5O4
reactant | benzimidazole | N1=CNC2=C1C=CC=C2 | C7H6N2
product | 8-(1H-Benzimidazol-1-yl)-7-nitro[1,2,4]triazolo[4,3-a]quinoxalin-1,4(2H,5H)-dione | N1(C=NC2=C1C=CC=C2)C2=C(C=C1NC(C=3N(C1=C2)C(NN3)=O)=O)[N+](=O)[O-] | C16H9N7O4
